US07148226B2
6-[2-(3-Chloro-4-cyclopropylmethoxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-3-(1-methyl-1H-benzoimidazol-2-ylmethyl)-5,6-dihydro-pyran-2-one
The title compound was prepared analogously to Example B(31), carbaldehyde where 6-[2-(3-Chloro-4-cyclopropylmethoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione was substituted in place of 6-[2-(3-Chloro-4-isopropoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione and 1-methyl-2-formylbenzimidazole was substituted in place of 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde of that example.

reactant | 6-[2-(3-Chloro-4-cyclopropylmethoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione | ClC=1C=C(C=CC1OCC1CC1)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C22H27ClO4
reactant | 6-[2-(3-Chloro-4-isopropoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione | ClC=1C=C(C=CC1OC(C)C)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C21H27ClO4
reactant | 1-methyl-2-formylbenzimidazole | CN1C(=NC2=C1C=CC=C2)C=O | C9H8N2O
reactant | 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
product | 6-[2-(3-Chloro-4-cyclopropylmethoxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-3-(1-methyl-1H-benzoimidazol-2-ylmethyl)-5,6-dihydro-pyran-2-one | ClC=1C=C(C=CC1OCC1CC1)CCC1(CC(=C(C(O1)=O)CC1=NC2=C(N1C)C=CC=C2)O)C2CCCC2 | C31H35ClN2O4
